// Generated for: spectre
// Generated on: Apr 13 23:06:50 2026
// Design library name: NS_SAR_test
// Design cell name: Sar_3_tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters Vdd=1 M=13 N=1024 CYCLES_PER_SAMPLE=4 SAMPLE_FREQ=51M Avin=.5 \
    OFFSET=.5 - 0.0625 CLK_FREQ=SAMPLE_FREQ*CYCLES_PER_SAMPLE \
    t_stop=1.1*N/SAMPLE_FREQ SignalFreq=M*SAMPLE_FREQ/N

// Library name: NS_SAR_test
// Cell name: Sar_3_tb
// View name: schematic
I1 (Vin CLK D\<4\> D\<3\> D\<2\> D\<1\> D\<0\> EOC) ns_sar_model Vref=1 \
        N=3 Vth=0.5 OSR=4 Vhigh=1
V1 (CLK 0) vsource type=pulse val0=0 val1=1 period=1/CLK_FREQ delay=1n \
        rise=10p fall=10p width=0.5/CLK_FREQ
V3 (VREF 0) vsource dc=Vdd type=dc
V0 (Vin 0) vsource dc=OFFSET type=sine ampl=Avin freq=SignalFreq
I2 (EOC 0 0 0 0 0 D\<4\> D\<3\> D\<2\> D\<1\> D\<0\>) adc_csv_logger \
        vth=0.5 \
        filename="/home/user23/NS_SAR_ADC/simulation/adc_output.csv"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=t_stop errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
ahdl_include "/home/user23/NS_SAR_ADC/libraries/NS_SAR_test/NS_SAR_V1/veriloga/veriloga.va"
ahdl_include "/home/user23/NS_SAR_ADC/libraries/NS_SAR_test/data_logger/veriloga/veriloga.va"
