

***********************************************************
* CDL produced by pvsBuildNetlist on Aug 10 06:41:40 2026 *
***********************************************************


*pvsViewList = auCdl schematic
*pvsStopList = ("auCdl")
*pvsSimName  = auCdl



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt INVX1_UPD A VDD VSS Y
*PVSCELL netlisted from NS_SAR_Digital INVX1_UPD schematic
  Mmn0 Y A VSS VSS nfet_01v8 M=1 L=150n W=760n
  Mmp0 Y A VDD VDD pfet_01v8 M=1 L=150n W=1.13u
.ends INVX1_UPD


.subckt comparator_latch_sr IN1 IN2 OUT1 OUT2 VDD VSS
*PVSCELL netlisted from NS_SAR_Analog comparator_latch_sr schematic
  XI0 INVX1_UPD $PINS A=A_OUT1 VDD=VDD VSS=VSS Y=OUT1
  XI1 INVX1_UPD $PINS A=A_OUT2 VDD=VDD VSS=VSS Y=OUT2
  XI2 INVX1_UPD $PINS A=IN1 VDD=VDD VSS=VSS Y=IN1_N
  XI3 INVX1_UPD $PINS A=IN2 VDD=VDD VSS=VSS Y=IN2_N
  MNM0 A_OUT1 IN1_N VSS VSS nfet_01v8 M=1 L=150n W=760n
  MNM4 A_OUT2 IN2_N VSS VSS nfet_01v8 M=1 L=150n W=760n
  MPM0 A_OUT2 A_OUT1 VDD VDD pfet_01v8 M=1 L=150n W=1.13u
  MPM2 A_OUT1 A_OUT2 VDD VDD pfet_01v8 M=1 L=150n W=1.13u
.ends comparator_latch_sr


***********************************************************
*             Completed at Aug 10 06:41:40 2026           *
***********************************************************
